US08257801B2
First, about 1 mole of methyl 4-hydroxybenzoate and about 1 mole of 4-bromo-1,1,1-trifluorobutane were added to excess acetone which was mixed with potassium carbonate at a temperature of about 40° C. for about 90 minutes to obtain about 1 mole of methyl 4-(4,4,4-trifluorobutoxy)benzoate. About 1 mole of methyl 4-(4,4,4-trifluorobutoxy)benzoate was mixed with about 1 N (normality) of excess sodium hydroxide, and methyl 4-(4,4,4-trifluorobutoxy)benzoate and sodium hydroxide were mixed to perform reflux for about 30 minutes and then neutralized to hydrochloric acid to obtain about 1 mole of 4-(4,4,4-trifluorobutoxy)benzoic acid. About 1 mole of 4-(4,4,4-trifluorobutoxy)benzoic acid was mixed with carbon dichloride and carbonyl diimidazole (CDI). After 4-(4,4,4-trifluorobutoxy)benzoic acid, carbon dichloride, and CDI were reacted at a temperature of about 25° C. for about 2 hours. About 1 mole of 4-hydroxybenzaldehyde was mixed with the above mixture at a temperature of about 25° C. for about 12 hours and, carbon dichloride and water were added to extract about 1 mole of 4-formylphenyl 4-(4,4,4-trifluorobutoxy)benzoate.

reactant | methyl 4-(4,4,4-trifluorobutoxy)benzoate | 1 mole | FC(CCCOC1=CC=C(C(=O)OC)C=C1)(F)F | C12H13F3O3
reactant | sodium hydroxide | about 1 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 4-(4,4,4-trifluorobutoxy)benzoic acid | about 1 mole | FC(CCCOC1=CC=C(C(=O)O)C=C1)(F)F | C11H11F3O3
